US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropoxy)quinolin-7-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.300 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.181 g of 7-chloromethyl-2-(3-methoxypropoxy)quinoline are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.42 (1:1 EtOAc-heptane); Rt=6.33.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.300 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 7-chloromethyl-2-(3-methoxypropoxy)quinoline | 0.181 g | ClCC1=CC=C2C=CC(=NC2=C1)OCCCOC | C14H16ClNO2
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropoxy)quinolin-7-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=C3C=CC(=NC3=C2)OCCCOC)C=CC=C1 | C41H52N2O8
